US05840732
iii) Synthesis of 5-butylidene-3-[4-(3-trifluoroacetylimidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride
To a solution of 200 mg (0.42 mmol) of 5-butylidene-3-[4-(3-trifluoroacetylimidazo[1,2-a]pyridin-5-ylthio)butyl]-thiazolidine-2,4-dione in 5 ml of methanol, 0.1 ml of concentrated hydrochloric acid was added. After the solvent was distilled off, the residue was washed with diethyl ether to yield 220 mg (100%, yellow oily substance) of the desired product.

reactant | 5-butylidene-3-[4-(3-trifluoroacetylimidazo[1,2-a]pyridin-5-ylthio)butyl]-thiazolidine-2,4-dione | 0.42 mmol, 200 mg | C(CCC)=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C(=CN2)C(C(F)(F)F)=O)=O | C20H20F3N3O3S2
reactant | hydrochloric acid | 0.1 ml | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | 5-butylidene-3-[4-(3-trifluoroacetylimidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride | Cl.C(CCC)=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C(=CN2)C(C(F)(F)F)=O)=O | InChI=1S/C20H20F3N3O3S2.ClH/c1-2-3-7-14-18(28)25(19(29)31-14)10-4-5-11-30-16-9-6-8-15-24-12-13(26(15)16)17(27)20(21,22)23;/h6-9,12H,2-5,10-11H2,1H3;1H
